2159-12-23 07:49:00 Physician Resident Progress Note
Chief Complaint: Dyspnea
   24 Hour Events:
   - CXR showed ? RLL consolidation, with pulm edema so started on
   levo/azithro for s. pneumo double coverage and given lasix 20 mg IV.
   Pt was afebrile overnight with diuresis od 6320 cc at MN.
   - Desats yesterday evening to mid 80s.  On high flow mask ABG:
   7.41/57/51.  Switched to a trial of Noninvasive CPAP and ABG
   7.41/62/52.  Pt could not tolerate non-invasive and since gas pt was
   relatively [**Name2 (NI) 284**] free while on high flow facemask, she was switched
   back.  O2 saturations remained in the low 90s on high flow facemask
   throughout the night.
   - CE checked due to concern about new pulm edema caused by CHF with
   infarct.  2 sets CE negative thus far.
 EKG - At [**2159-12-22**] 09:27 PM
   Allergies:
   Motrin (Oral) (Ibuprofen)
   Hives;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Vancomycin And Derivatives
   Unknown;
   Haldol (Injection) (Haloperidol Lactate)
   Unknown;
   Nitrofurantoin
   Lightheadedness
   Nitrofurantoin
   Lightheadedness
   Last dose of Antibiotics:
   Ceftriaxone - [**2159-12-23**] 03:51 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2159-12-22**] 02:12 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: Dry mouth
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, Edema, No(t)
   Tachycardia, No(t) Orthopnea
   Respiratory: Reports Improved Dyspnea Since Yesterday
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2159-12-23**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.3
C (97.4
   HR: 97 (87 - 101) bpm
   BP: 105/65(75){93/40(55) - 149/110(144)} mmHg
   RR: 18 (16 - 25) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 138 kg (admission): 138 kg
             Total In:
                                                                  1,710 mL
                                                                    500 mL
   PO:
                                                                  1,210 mL
                                                                    450 mL
   TF:
   IVF:
   50 mL
   Blood products:
   Total out:
                                                                  8,030 mL
                                                                    775 mL
   Urine:
                                                                  5,830 mL
                                                                    775 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -6,320 mL
                                                                   -275 mL
   Respiratory support
   O2 Delivery Device: None, High flow neb
   Ventilator mode: Standby
   Vt (Spontaneous): 824 (635 - 2,611) mL
   PS : 3 cmH2O
   PEEP: 3 cmH2O
   FiO2: 95%
   SpO2: 90%
   ABG: 7.41/62/52/33/11
   Ve: 16 L/min
   PaO2 / FiO2: 55
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   At the mid L lung field, No(t) Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, and time, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   268 K/uL
   12.3 g/dL
   163 mg/dL
   0.5 mg/dL
   33 mEq/L
   3.7 mEq/L
   16 mg/dL
   96 mEq/L
   137 mEq/L
   38.8 %
   9.1 K/uL
        [image002.jpg]
                             [**2159-12-22**]  02:22 PM
                             [**2159-12-22**]  04:05 PM
                             [**2159-12-22**]  05:51 PM
                             [**2159-12-22**]  10:45 PM
                             [**2159-12-23**]  03:28 AM
   WBC
   9.1
   Hct
   38.8
   Plt
   268
   Cr
   0.6
   0.5
   0.5
   TropT
   <0.01
   TCO2
   37
   41
   Glucose
   187
   126
   163
   Other labs: CK / CKMB / Troponin-T:37/2/<0.01, Lactic Acid:2.5 mmol/L,
   Ca++:8.5 mg/dL, Mg++:2.1 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]): likely due to COPD flair
   with PNA and volume overload.
   -          Lasix 20 mg IV
   -          goal negative 1.5 liters
   -          change ABX to ceftriaxone and azithromycin
   -          bronchodilators
   -          decrease methylpridnisolone dose
   -          f/u sputum maintain O2 sat 90-92%
   -          TTE with bubbles to evaluate for shunt
 URINARY TRACT INFECTION (UTI): Previous UCx without evidence of UTI.
   - F/u remaining urine culture
   - no abx for now
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
   -          check CD4
   -          induced sputum for PCP
   [**Name Initial (PRE) **]          continue [**Name9 (PRE) 301**]
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION:
   -continue management as described above
   ICU Care
   Nutrition: regular
   Glycemic Control:  HISS
   Lines:
   20 Gauge - [**2159-12-22**] 01:35 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI since on steroids
   VAP:  azithromycin, ceftriaxone
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU

2159-12-24 07:40:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   decreased hydrocortisone yesterday
   changed abx to ceftriaxone/azithro
   sent CD4 count (if high, will be useful; if low, will not be conclusive
   of progression of HIV disease as CD4 can go temporarily low in setting
   of illness)
   sent induced sputum for PCP
   pt was not able to tolerate weaning O2
   continuing diuresis--20 mg IV lasix x2
   Not compliant with her O2 mask, takes it off frequently with
   desaturations to 70-80% but asymptomatic.
   Subjective
   No complaints, wants to go home. Has occasional non-productive cough.
   Denies SOB or pleuritic CP. No fevers, chills, or sweats.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   History obtained from [**Hospital 85**] Medical recordsMotrin (Oral) (Ibuprofen)
   Hives;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Vancomycin And Derivatives
   Unknown;
   Haldol (Injection) (Haloperidol Lactate)
   Unknown;
   Nitrofurantoin
   Lightheadedness
   Nitrofurantoin
   Lightheadedness
   Antibiotics:
   Ceftriaxone 1g IV daily
   Aithromycin 250 mg PO daily
   Other ICU medications:
   Furosemide (Lasix) - [**2159-12-23**] 08:00 PM
   Heparin SQ
   Other medications:
   Atazanavir/Ritonavir
   Emtricitabine/Tenofovir
   HCTZ, Propranolol
   Methylprednisolone 80mg IV TID
   Fluticasone-salmeterol
   Tiotropium, Ipratropium nebs
   Bupropion, Lamotrigine, Diazepam
   Gabapentin, Methadone
   Prn dilaudid
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever, no chills, sweats
   Respiratory: Cough, No(t) Dyspnea
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2159-12-24**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.4
C (97.5
   HR: 76 (72 - 100) bpm
   BP: 127/83(94){66/45(54) - 145/91(100)} mmHg
   RR: 20 (13 - 24) insp/min
   SpO2: 79%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 138 kg (admission): 138 kg
   Height: 67 Inch
   Telemetry: desat to 70
             Total In:
                                                                  3,410 mL
                                                                  1,330 mL
   PO:
                                                                  3,360 mL
                                                                  1,280 mL
   TF:
   IVF:
                                                                     50 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                  4,925 mL
                                                                    594 mL
   Urine:
                                                                  4,925 mL
                                                                    594 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,515 mL
                                                                    736 mL
   Respiratory support
   O2 Delivery Device: High flow nasal cannula, High flow neb
   SpO2: 79%
   ABG: ///38/
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , Crackles : bilateral, No(t) Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): ,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   290 K/uL
   12.3 g/dL
   166 mg/dL
   0.7 mg/dL
   38 mEq/L
   4.0 mEq/L
   22 mg/dL
   92 mEq/L
   134 mEq/L
   39.1 %
   12.5 K/uL
        [image002.jpg]
   CXR:  FINDINGS:  In comparison to previous examination, there is no
   relevant change.
   Subtle signs of fluid overload, slightly enlarged cardiac silhouette.
   No
   newly appeared parenchymal opacities.
   Micro
   [**12-23**] CD4 281 (25%), was 980 [**9-/2159**]
   [**12-23**] repeat IFA for PCP [**Name Initial (PRE) 365**]
   [**12-22**] urinx cx Enterococcus (8000 copies)
   [**12-21**] urine cx negative
   [**12-21**] sputum 1+ polys moderate OP flora, PCP [**Name Initial (PRE) 365**]
   [**12-20**] blood cx negative
                             [**2159-12-22**]  02:22 PM
                             [**2159-12-22**]  04:05 PM
                             [**2159-12-22**]  05:51 PM
                             [**2159-12-22**]  10:45 PM
                             [**2159-12-23**]  03:28 AM
                             [**2159-12-24**]  04:37 AM
   WBC
   9.1
   12.5
   Hct
   38.8
   39.1
   Plt
   268
   290
   Cr
   0.6
   0.5
   0.5
   0.7
   TropT
   <0.01
   TCO2
   37
   41
   Glucose
   187
   126
   163
   166
   Other labs: PT / PTT / INR:12.1/23.4/1.0, CK / CKMB /
   Troponin-T:37/2/<0.01, Lactic Acid:2.5 mmol/L, Ca++:8.8 mg/dL, Mg++:2.3
   mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 HYPOXEMIA
   Uncertain whether this is infectious or not in etiology.  WBC up
   slightly today, but could reflect steroids. Patient does have h/o HIV
   but preserved CD4 recently (dip to 280 less reliable indicator in
   setting of acute illness) and two negative DFA screens for PCP make PCP
   less likely. LDH is elevated, though this is not at all specific for
   PCP. [**Name10 (NameIs) 59**] lobar infiltrate suggestive of a typical bacterial pneumonia.
   Consider atypical bacteria also respiratory virus.  Fungal/TB seem less
   likely. Among noninfectious causes, patient does have COPD with
   baseline home O2 requirement.  No evidence for PE on recent CTA. Shunt
   either intracardiac or intrapulmonary merits consideration given marked
   hypoxia. Chest film does suggest some degree of pulmonary edema
   --Check nasopharyngeal aspirate for viral antigen screen and culture.
   Add on differential to CBC
   --Check TTE to assess for shunting, repeat ABG
   --Continue bronchodilators for COPD, tapering steroids
   --Review CTA chest with radiology ?unclear if parenchyma clear
   --Continue ceftriaxone and azithromycin for now
   --Diurese to goal net negative 1L today, lasix IV prn
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
   ID recommendations appreciated.
   --Continue truvada, boosted atazanavir
 Migraines
   Continue propranolol ppx with triptan prn
 Mood disorder
   Continue outpatient regimen buspar, diazepam, and lamictal
 Chronic pain
   Continue neurontin and methadone, limit prn dilaudid as may be
   contributing to confusion worsened with steroids
   ICU Care
   Nutrition: regular
   Glycemic Control:
   Lines:
   20 Gauge - [**2159-12-22**] 01:35 PM
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer: PPI
   VAP:  not applicable
   Comments:
   Communication:
   Code status: Full code
   Disposition: ICU
   *** Patient threatened to leave AMA on [**12-24**].
    She did not appear to have a good understanding of the seriousness of
   her respiratory status. If she is serious about leaving she needs to be
   seen by psychiatry to ensure that she has capacity to leave.

2159-12-24 12:12:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Asking to leave hospital
   24 Hour Events:
 SPUTUM CULTURE - At [**2159-12-23**] 12:12 PM
   sputum induces for pcp
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Motrin (Oral) (Ibuprofen)
   Hives;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Vancomycin And Derivatives
   Unknown;
   Haldol (Injection) (Haloperidol Lactate)
   Unknown;
   Nitrofurantoin
   Lightheadedness
   Nitrofurantoin
   Lightheadedness
   Last dose of Antibiotics:
   Ceftriaxone - [**2159-12-24**] 03:55 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2159-12-23**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2159-12-24**] 08:32 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-12-24**] 12:12 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.2
C (97.1
   HR: 82 (72 - 88) bpm
   BP: 126/60(72){66/45(54) - 145/91(100)} mmHg
   RR: 18 (13 - 24) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 137.4 kg (admission): 138 kg
   Height: 67 Inch
             Total In:
                                                                  3,410 mL
                                                                  1,690 mL
   PO:
                                                                  3,360 mL
                                                                  1,640 mL
   TF:
   IVF:
                                                                     50 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                  4,925 mL
                                                                  1,034 mL
   Urine:
                                                                  4,925 mL
                                                                  1,034 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,515 mL
                                                                    656 mL
   Respiratory support
   O2 Delivery Device: High flow nasal cannula
   SpO2: 91%
   ABG: ///38/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Abdominal: Obese
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): x3,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   12.3 g/dL
   290 K/uL
   166 mg/dL
   0.7 mg/dL
   38 mEq/L
   4.0 mEq/L
   22 mg/dL
   92 mEq/L
   134 mEq/L
   39.1 %
   12.5 K/uL
        [image002.jpg]
                             [**2159-12-22**]  02:22 PM
                             [**2159-12-22**]  04:05 PM
                             [**2159-12-22**]  05:51 PM
                             [**2159-12-22**]  10:45 PM
                             [**2159-12-23**]  03:28 AM
                             [**2159-12-24**]  04:37 AM
   WBC
   9.1
   12.5
   Hct
   38.8
   39.1
   Plt
   268
   290
   Cr
   0.6
   0.5
   0.5
   0.7
   TropT
   <0.01
   TCO2
   37
   41
   Glucose
   187
   126
   163
   166
   Other labs: PT / PTT / INR:12.1/23.4/1.0, CK / CKMB /
   Troponin-T:37/2/<0.01, Lactic Acid:2.5 mmol/L, Ca++:8.8 mg/dL, Mg++:2.3
   mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 HYPOXEMIA - profound - with hypercarbia.  Awaiting echo with
   bubbles.  Suspect she has significant alv dis
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]) - etiology of resp failure
   is unclear. Episode of apparent pulmonary edema in [**4-2**] w/o clear etiol
   - cardiac vs. non-cardiac. CTA this adm shows some alv dis - will
   review with radiology. No obvious exposure history. Echo pending this
   adm - will continue to diurese while she is here
 URINARY TRACT INFECTION (UTI)
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   Agitation - threatening to sign out AMA. Will have her seen by Dr. [**Last Name (STitle) 266**]
   and will ask proxy to intervene.  Unclear if this is being exacerbated
   by high dose steroids.  Will discuss with Psyche
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2159-12-22**] 01:35 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 40

2159-12-25 06:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Patient's PCP spoke with Psychiatry; will call consult if she wants to
   go AMA
   Echo done, but study poor quality and cannot evaluate for PFO
   CTA reviewed with radiology
 evidence of some atelectasis vs edema in
   parenchyma
   Diuresed with lasix
 TRANSTHORACIC ECHO - At [**2159-12-24**] 09:00 AM
   SUBJECTIVE
   Still with occasional nonproductive cough, no SOB. Wants to go home.
   c/o chronic back pains similar to what she has at home.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   History obtained from [**Hospital 85**] Medical recordsMotrin (Oral) (Ibuprofen)
   Hives;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Vancomycin And Derivatives
   Unknown;
   Haldol (Injection) (Haloperidol Lactate)
   Unknown;
   Nitrofurantoin
   Lightheadedness
   Nitrofurantoin
   Lightheadedness
   Antibiotics:
   Ceftriaxone 1g IV daily, day 3
   Azithromycin 250mg PO daily, day 3
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2159-12-25**] 12:00 AM
   Other medications:
   Prednisone 60 mg PO daily
   Atazanavir/Ritonavir
   Emtricitabine/Tenofovir
   HCTZ, Propranolol
   Fluticasone-salmeterol
   Tiotropium, Ipratropium nebs
   Bupropion, Lamotrigine, Diazepam
   Gabapentin, Methadone
   Prn dilaudid
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever, occ. sweats, no chills
   Respiratory: Cough, Dyspnea, mild SOB, cough nonproductive
   Flowsheet Data as of  [**2159-12-25**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.4
C (97.6
   HR: 62 (62 - 83) bpm
   BP: 123/78(89){98/59(70) - 147/89(97)} mmHg
   RR: 16 (14 - 21) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 137.4 kg (admission): 138 kg
   Height: 67 Inch
   Telemetry: Desats to 80
   Total In:
                                                                  4,690 mL
                                                                    290 mL
   PO:
                                                                  4,640 mL
                                                                    240 mL
   TF:
   IVF:
                                                                     50 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                  5,454 mL
                                                                  1,010 mL
   Urine:
                                                                  5,454 mL
                                                                  1,010 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -764 mL
                                                                   -720 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 91%
   ABG: 7.44/63/58//15
   PaO2 / FiO2: 83
   Physical Examination
   General Appearance: Overweight / Obese, Comfortable
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Respiratory / Chest: (Breath Sounds: No(t) Clear : , No(t) Crackles :
   bilateral)
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   255
   12.2
   137 mg/dL
   0.6 mg/dL
   40 mEq/L
   4.2
   23 mg/dL
   92 mEq/L
   139
   39.5 %
   8.4
        [image002.jpg]
   Fingersticks 173-272
   Micro
   [**12-24**] nasopharyngeal aspirate too few cells for DFA, culture pending
   [**12-23**] CD4 281 (25%), was 980 [**9-/2159**]
   [**12-23**] repeat IFA for PCP [**Name Initial (PRE) 365**]
   [**12-22**] urinx cx Enterococcus (8000 copies)
   [**12-21**] urine cx negative
   [**12-21**] sputum 1+ polys moderate OP flora, PCP [**Name Initial (PRE) 365**]
   [**12-20**] blood cx negative
                             [**2159-12-22**]  02:22 PM
                             [**2159-12-22**]  04:05 PM
                             [**2159-12-22**]  05:51 PM
                             [**2159-12-22**]  10:45 PM
                             [**2159-12-23**]  03:28 AM
                             [**2159-12-24**]  04:37 AM
                             [**2159-12-24**]  12:36 PM
                             [**2159-12-24**]  04:51 PM
   WBC
   9.1
   12.5
   11.7
   Hct
   38.8
   39.1
   40.8
   Plt
   [**Telephone/Fax (3) 396**]
   Cr
   0.6
   0.5
   0.5
   0.7
   TropT
   <0.01
   TCO2
   37
   41
   44
   Glucose
   187
   126
   163
   166
   Other labs: PT / PTT / INR:12.1/23.4/1.0, CK / CKMB /
   Troponin-T:37/2/<0.01, Differential-Neuts:76.4 %, Lymph:18.8 %,
   Mono:4.0 %, Eos:0.7 %, Lactic Acid:2.5 mmol/L, LDH:422 IU/L, Ca++:8.8
   mg/dL, Mg++:2.3 mg/dL, PO4:2.4 mg/dL
   [**12-24**] TTE
   IMPRESSION: Very poor technical quality due to patient's body habitus.
   Left ventricular function is probably normal, a focal wall motion
   abnormality cannot be fully excluded. EF 60% The right ventricle is not
   well seen. No pathologic valvular abnormality seen. The inter-atrial
   septum was not well seen. The poor technical quality of the study means
   that the presence of an ASD/PFO could not be confirmed or refuted, even
   after the injection of agitated saline.
   Assessment and Plan
 HYPOXEMIA
   Etiology remains uncertain. Does have severe COPD with home O2 but
   oxygen requirements still above her baseline.  ABG repeated yesterday
   shows hypoxia somewhat improved (P02 was 45 on [**12-22**]). O2 saturation
   improved following diuresis
 consistent with a contribution from
   pulmonary edema. Difficult to say whether the edema is cardiogenic or
   not as recent TTE of poor quality; EF was 60% but WMA could not be
   excluded. Cardiac catheterization could be a helpful next step
 could
   check LVgram, also assess for shunt (could not rule out shunt on TTE).
   No evidence of PE on CTA chest.  Infectious workup has been negative to
   date, patient currently on ceftriaxone and azithromycin.
   --If she leaves AMA today would send her home on levofloxacin PO x7
   days for broad empiric coverage.
   --If stays, will consult cardiology regarding ?cath and further workup
   for her pulmonary edema. If she leaves, will arrange for her to follow
   up with cardiology as outpatient.
   --Continue lasix diuresis today with goal at least 1 liter net
   negative, will give additional 80IV lasix
   --Follow up cultures including nasopharyngeal washings
   --Continue bronchodilators and steroid taper
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
   ID recommendations appreciated.
   --Continue truvada, boosted atazanavir
 Migraines
   Continue propranolol ppx with triptan prn
 Mood disorder
   Continue outpatient regimen buspar, diazepam, and lamictal
   Will consult psychiatry today regarding patient
s capacity for leaving
   AMA. She does not appear to fully appreciate the risks of going home
   given her current respiratory status, which is still worse than her
   baseline.  Risks include, but are not limited to, respiratory
   decompensation leading to death or septic shock.
 Chronic pain
   Continue neurontin and methadone, limit prn dilaudid as may be
   contributing to confusion worsened with steroids
   ICU Care
   Nutrition: regular
   Glycemic Control:
   Lines:
   20 Gauge - [**2159-12-22**] 01:35 PM
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer: PPI
   VAP:  not applicable
   Comments:
   Communication:
   Code status: Full code
   Disposition: ICU
   *** Patient threatened to leave AMA on [**12-24**].
    She did not appear to have a good understanding of the seriousness of
   her respiratory status. If she is serious about leaving she needs to be
   seen by psychiatry to ensure that she has capacity to leave.

2159-12-25 11:50:00 Physician Attending Progress Note
Chief Complaint: Hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   wants to sign out AMA
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2159-12-24**] 09:00 AM
   Allergies:
   Motrin (Oral) (Ibuprofen)
   Hives;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Vancomycin And Derivatives
   Unknown;
   Haldol (Injection) (Haloperidol Lactate)
   Unknown;
   Nitrofurantoin
   Lightheadedness
   Nitrofurantoin
   Lightheadedness
   Last dose of Antibiotics:
   Ceftriaxone - [**2159-12-25**] 04:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2159-12-25**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-12-25**] 11:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.6
C (96.1
   HR: 69 (59 - 79) bpm
   BP: 124/76(87){98/64(72) - 147/90(101)} mmHg
   RR: 29 (12 - 29) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 137.4 kg (admission): 138 kg
   Height: 67 Inch
             Total In:
                                                                  4,690 mL
                                                                  1,130 mL
   PO:
                                                                  4,640 mL
                                                                  1,080 mL
   TF:
   IVF:
                                                                     50 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                  5,454 mL
                                                                  2,240 mL
   Urine:
                                                                  5,454 mL
                                                                  2,240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -764 mL
                                                                 -1,110 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 99%
   ABG: 7.44/63/58/40/15
   PaO2 / FiO2: 83
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Distant), distant sounds
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : mid insp, Wheezes : ,
   Diminished: )
   Abdominal: Soft, Obese
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   12.2 g/dL
   295 K/uL
   137 mg/dL
   0.6 mg/dL
   40 mEq/L
   4.2 mEq/L
   23 mg/dL
   92 mEq/L
   139 mEq/L
   39.5 %
   8.4 K/uL
        [image002.jpg]
                             [**2159-12-22**]  02:22 PM
                             [**2159-12-22**]  04:05 PM
                             [**2159-12-22**]  05:51 PM
                             [**2159-12-22**]  10:45 PM
                             [**2159-12-23**]  03:28 AM
                             [**2159-12-24**]  04:37 AM
                             [**2159-12-24**]  12:36 PM
                             [**2159-12-24**]  04:51 PM
                             [**2159-12-25**]  06:30 AM
   WBC
   9.1
   12.5
   11.7
   8.4
   Hct
   38.8
   39.1
   40.8
   39.5
   Plt
   [**Telephone/Fax (3) 402**]95
   Cr
   0.6
   0.5
   0.5
   0.7
   0.6
   TropT
   <0.01
   TCO2
   37
   41
   44
   Glucose
   187
   126
   163
   166
   137
   Other labs: PT / PTT / INR:12.1/23.4/1.0, CK / CKMB /
   Troponin-T:37/2/<0.01, Differential-Neuts:76.4 %, Lymph:18.8 %,
   Mono:4.0 %, Eos:0.7 %, Lactic Acid:2.5 mmol/L, LDH:422 IU/L, Ca++:8.8
   mg/dL, Mg++:2.4 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
 HYPOXEMIA CTA suggests interstitial edema. Echo poor quality due to
   obesity but ECG suggests she may have had prior infarcts. We are
   diuresing and would send out (AMA) on lasix.  Needs a more extensive
   cardiac w/u when stable. Question if she would benefit from a cath to
   resolve her cardiac fxn - will arrange cardiology consult
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]) remains hypoxic with sl
   improvement
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS) unclear that
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   Wants to sign out AMA. We have had lengthy discussions  with her
   informing her of the risks. Have asked Psychiarty to evaluate her
   competence
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2159-12-22**] 01:35 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition : in ICU but threatening to sign out AMA
   Total time spent:  45
   Patient is critically ill

2159-12-26 07:25:00 Physician Resident Progress Note
51F with HIV presented with fever and SOB
   24 Hour Events:
   threatened to leave but agreed to stay in the end
   if she threatns to leave again will discuss with HCP and call psych for
   reeval
   diuresed well
   had some hemorrhoidal bleeding
   Subjective:
   c/o "burning" at site of right PIV, still with nonproductive cough,
   mild dyspnea and pleuritic chest discomfort.
   History obtained from Patient
   Allergies:
   Motrin (Oral) (Ibuprofen)
   Hives; Compazine (Oral) (Prochlorperazine Maleate)
   Unknown; Vancomycin And Derivatives
   Unknown; Haldol (Injection) (Haloperidol Lactate) Unknown;
   Nitrofurantoin
   Lightheadedness
   Last dose of Antibiotics:
   Ceftriaxone - [**2159-12-26**] 06:50 AM
   Ceftriaxone 1g IV daily, day 4
   Azithromycin 250mg PO daily, day 4
   Other ICU medications:
   Heparin Sodium (Prophylaxis)
   Other medications:
   Prednisone 40 mg PO daily (on taper)
   Atazanavir/Ritonavir
   Emtricitabine/Tenofovir
   HCTZ, Propranolol
   Fluticasone-salmeterol
   Tiotropium, Ipratropium nebs
   Bupropion, Lamotrigine, Diazepam
   Gabapentin, Methadone
   Prn dilaudid
   Flowsheet Data as of  [**2159-12-26**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 74 (59 - 79) bpm
   BP: 128/68(76){106/28(37) - 139/89(96)} mmHg
   RR: 20 (9 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 137.4 kg (admission): 138 kg
   Height: 67 Inch
   Telemetry: desats to 80
   Total In:
                                                                  3,350 mL
                                                                    350 mL
   PO:
                                                                  3,300 mL
                                                                    300 mL
   TF:
   IVF:
                                                                     50 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                  6,315 mL
                                                                  1,390 mL
   Urine:
                                                                  6,315 mL
                                                                  1,390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,965 mL
                                                                 -1,040 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Aerosol-cool
   SpO2: 97% on 3L NC with 10L/min FiO2 0.4 mask
   ABG: ////
   Physical Examination
   General Appearance: Overweight / Obese, Comfortable
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Respiratory / Chest: (Breath Sounds: No(t) Clear : , No(t) Crackles :
   bilateral)
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: Trace, Left: Trace  R PIV without erythema or edema
   Skin:  Warm
   Neurologic: Attentive
   Labs / Radiology
   295 K/uL
   12.2 g/dL
   137 mg/dL
   0.6 mg/dL
   40 mEq/L
   4.2 mEq/L
   23 mg/dL
   92 mEq/L
   139 mEq/L
   39.5 %
   8.4 K/uL
        [image002.jpg]
   *** NO LABS BACK YET THIS MORNING, ABOVE ARE FROM [**12-25**] ***
   CXR read pending, c/w pulmonary edema
   Micro
   [**12-24**] nasopharyngeal aspirate too few cells for DFA, culture pending
   [**12-23**] CD4 281 (25%), was 980 [**9-/2159**]
   [**12-23**] repeat IFA for PCP [**Name Initial (PRE) 365**]
   [**12-22**] urinx cx Enterococcus (8000 copies)
   [**12-21**] urine cx negative
   [**12-21**] sputum 1+ polys moderate OP flora, PCP [**Name Initial (PRE) 365**]
   [**12-20**] blood cx negative
                             [**2159-12-22**]  02:22 PM
                             [**2159-12-22**]  04:05 PM
                             [**2159-12-22**]  05:51 PM
                             [**2159-12-22**]  10:45 PM
                             [**2159-12-23**]  03:28 AM
                             [**2159-12-24**]  04:37 AM
                             [**2159-12-24**]  12:36 PM
                             [**2159-12-24**]  04:51 PM
                             [**2159-12-25**]  06:30 AM
   WBC
   9.1
   12.5
   11.7
   8.4
   Hct
   38.8
   39.1
   40.8
   39.5
   Plt
   [**Telephone/Fax (3) 402**]95
   Cr
   0.6
   0.5
   0.5
   0.7
   0.6
   TropT
   <0.01
   TCO2
   37
   41
   44
   Glucose
   187
   126
   163
   166
   137
   Other labs: PT / PTT / INR:12.1/23.4/1.0, CK / CKMB /
   Troponin-T:37/2/<0.01, Differential-Neuts:76.4 %, Lymph:18.8 %,
   Mono:4.0 %, Eos:0.7 %, Lactic Acid:2.5 mmol/L, LDH:422 IU/L, Ca++:8.8
   mg/dL, Mg++:2.4 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
 HYPOXEMIA and Pulmonary edema
   Etiology remains uncertain. Does have COPD with home O2 but oxygen
   requirements still above her baseline. O2 saturation improved following
   diuresis
 consistent with a contribution from pulmonary edema.
   Difficult to say whether the edema is cardiogenic as recent TTE of poor
   quality; EF was 60% but WMA could not be excluded. MI unlikely given
   negative serial cardiac enzymes. Could have right heart failure (e.g.
   from HIV-associated pulmonary hypertension or sleep apnea) leading to
   left heart failure and therefore pulmonary edema. TEE or cardiac cath
   may help further assess pump function (e.g. LVgram) and for shunt.
   Pneumonia could be cause of noncardiogenic pulmonary edema.  Albumin
   recently 3.4, no significant proteinuria.
   --If she leaves AMA today would send her home on levofloxacin PO x10
   days for broad empiric coverage.
   --Follow up cultures including nasopharyngeal washings and reculture if
   febrile
   --Continue lasix diuresis today with goal at least 1 liter net negative
   --Continue bronchodilators and steroid taper
   --Cardiology consult recommendations appreciated
   -
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
   ID recommendations appreciated.  CD4 repeated at 281 but likely
   depressed in setting of acute illness (was 980 [**9-/2159**]), will need
   outpatient followup
   --Continue truvada, boosted atazanavir
 Migraines
   Continue propranolol ppx with triptan prn
 Mood disorder
   Continue outpatient regimen buspar, diazepam, and lamictal
   She was seen by psych and felt NOT to have capacity to leave AMA. If
   threatens again talk to her HCP, c/s psych if needed
 Chronic pain
   Continue neurontin and methadone, limit prn dilaudid as may be
   contributing to confusion worsened with steroids
   ICU Care
   Nutrition: regular
   Glycemic Control:
   Lines:
   20 Gauge - [**2159-12-22**] 01:35 PM
 will be replaced by IV RN
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer: PPI
   VAP:  not applicable
   Communication:  Health care proxy [**Name (NI) 344**] [**Name (NI) 345**] [**Telephone/Fax (1) 443**]
   Code status: Full code
   Disposition: ICU
   *** Patient threatened to leave AMA on [**12-25**].
   ------ Protected Section ------
   Addendum: Dispo is FLOOR today
   ------ Protected Section Addendum Entered By:[**First Name4 (NamePattern1) 435**] [**Last Name (NamePattern1) 436**], MD
   on:[**2159-12-26**] 11:41 ------

2159-12-26 10:34:00 Physician Attending Progress Note
Chief Complaint: Hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Continuing to diurese - -14L los
   24 Hour Events:
   seen by psychiatry - not competent to sign out AMA
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Motrin (Oral) (Ibuprofen)
   Hives;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Vancomycin And Derivatives
   Unknown;
   Haldol (Injection) (Haloperidol Lactate)
   Unknown;
   Nitrofurantoin
   Lightheadedness
   Nitrofurantoin
   Lightheadedness
   Last dose of Antibiotics:
   Ceftriaxone - [**2159-12-26**] 06:50 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-12-26**] 10:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 60 (55 - 79) bpm
   BP: 121/64(78){106/28(37) - 139/89(96)} mmHg
   RR: 17 (9 - 29) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 137.4 kg (admission): 138 kg
   Height: 67 Inch
             Total In:
                                                                  3,350 mL
                                                                  1,050 mL
   PO:
                                                                  3,300 mL
                                                                  1,000 mL
   TF:
   IVF:
                                                                     50 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                  6,315 mL
                                                                  1,750 mL
   Urine:
                                                                  6,315 mL
                                                                  1,750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,965 mL
                                                                   -700 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 98%
   ABG: ////
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant), distant heart sounds
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   )
   Abdominal: Soft, Obese
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   12.2 g/dL
   295 K/uL
   137 mg/dL
   0.6 mg/dL
   40 mEq/L
   4.2 mEq/L
   23 mg/dL
   92 mEq/L
   139 mEq/L
   39.5 %
   8.4 K/uL
        [image002.jpg]
                             [**2159-12-22**]  02:22 PM
                             [**2159-12-22**]  04:05 PM
                             [**2159-12-22**]  05:51 PM
                             [**2159-12-22**]  10:45 PM
                             [**2159-12-23**]  03:28 AM
                             [**2159-12-24**]  04:37 AM
                             [**2159-12-24**]  12:36 PM
                             [**2159-12-24**]  04:51 PM
                             [**2159-12-25**]  06:30 AM
   WBC
   9.1
   12.5
   11.7
   8.4
   Hct
   38.8
   39.1
   40.8
   39.5
   Plt
   [**Telephone/Fax (3) 402**]95
   Cr
   0.6
   0.5
   0.5
   0.7
   0.6
   TropT
   <0.01
   TCO2
   37
   41
   44
   Glucose
   187
   126
   163
   166
   137
   Other labs: PT / PTT / INR:12.1/23.4/1.0, CK / CKMB /
   Troponin-T:37/2/<0.01, Differential-Neuts:76.4 %, Lymph:18.8 %,
   Mono:4.0 %, Eos:0.7 %, Lactic Acid:2.5 mmol/L, LDH:422 IU/L, Ca++:8.8
   mg/dL, Mg++:2.4 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
 HYPOXEMIA improving substantially with diuresis. Now 14l neg for her
   hospitalization.  Unclear why she has done this twice in 8 mos. Echo
   has been very difficult to interpret. Cardiology to see today
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION on MDIs. Exhalation prolonged but unlikely to
   be the major cause of hypoxia unless she has pulm htn due to HIV, COPD
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN) on methadone
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : to floor
   Total time spent:  40